US06956047B1
7-(1-Ethyl-propoxy)-5-methyl-3-(2,4,6-trimethyl-phenyl)-3H-imidazo[4,5-b]pyridine
A mixture of 4-(1-ethyl-propoxy)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3-diamine, trimethyl orthoformate, p-toluenesulfonic acid monohyrate in toluene was heated at reflux using Dean-Stark apparatus for 24 hours. The mixture was heated at reflux overnight. The mixture was quenched with water, sat. NaHCO3, extracted with ethyl acetate. The organic layer was separated, dried (MgSO4) and concentrated to dryness. After purification, the title compound was isolated. Anal. For C21H29N3O.¼H2O calc. C, 73.76; H, 8.10; N, 12.29; found: C, 73.22; H, 7.96; N, 12.42.

reactant | 4-(1-ethyl-propoxy)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3-diamine | C(C)C(CC)OC1=C(C(=NC(=C1)C)NC1=C(C=C(C=C1C)C)C)N | C20H29N3O
reactant | trimethyl orthoformate | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-(1-Ethyl-propoxy)-5-methyl-3-(2,4,6-trimethyl-phenyl)-3H-imidazo[4,5-b]pyridine | C(C)C(CC)OC1=C2C(=NC(=C1)C)N(C=N2)C2=C(C=C(C=C2C)C)C | C21H27N3O
